US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(pyrimidin-2-ylsulfanyl)-thiazol-2-yl]-urea (142 mg, 32%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 2-mercaptopyrimidine (222 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 2-mercaptopyrimidine | 2 mmol, 222 mg | SC1=NC=CC=N1 | C4H4N2S
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(pyrimidin-2-ylsulfanyl)-thiazol-2-yl]-urea | 142 mg, 32% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)SC1=NC=CC=N1 | C21H21N5O2S2
